US05744466
c) trans-N-t-Butoxycarbonyl-2-ethenylcyclopropylamine
The above acid (8.66 g, 77.43 mmol) was dissolved in anhydrous toluene (40 ml), cooled to 0°, treated with dry triethylamine (11.9 ml) and then, dropwise, with diphenylphosphoryl azide (23.4 g, Aldrich) in toluene(25 ml). The solution was warmed to 80° and kept at 80°-85° for 45 mins. Anhydrous t-butanol (36 ml) and toluene(10 ml) were added quickly and the solution heated at 102° for 6 hours. The reaction mixture was allowed to cool and diluted with diethyl ether, washed with 1N orthophosphoric acid (100 ml), saturated aq.sodium bicarbonate and brine, dried and concentrated. The residual oil was purified by chromatography (silica: 350 g; hexane: ethyl acetate 95:5) to give the product as a colourless oil (3.91 g).

reactant | triethylamine | 11.9 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 23.4 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | t-butanol | 36 ml | C(C)(C)(C)O | C4H10O
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
product | trans-N-t-Butoxycarbonyl-2-ethenylcyclopropylamine | 3.91 g | C(C)(C)(C)OC(=O)N[C@H]1[C@@H](C1)C=C | C10H17NO2
